US04156732
(b) 2-(3-Amino-4-chlorobenzoyl)-benzo[b]furan
37 g 2-(4-Chloro-3-nitrobenzoyl)-benzo[b]furan are refluxed with agitation for 4 hours in a mixture of 500 ml 50% aqueous acetic acid, 250 ml ethanol and 90 g powdered nickel/aluminum alloy (1:1). After filtration of the metal powder, the solvent is distilled off, water is added to the residue, and extraction is carried out with ethyl acetate. After evaporation of the solvent, colorless crystals having a melting point of 137° C. (from isopropanol) are obtained.

reactant | 2-(4-Chloro-3-nitrobenzoyl)-benzo[b]furan | 37 g | ClC1=C(C=C(C(=O)C2=CC3=C(O2)C=CC=C3)C=C1)[N+](=O)[O-] | C15H8ClNO4
reactant | ethanol | 250 ml | C(C)O | C2H6O
solvent | acetic acid | 500 ml | C(C)(=O)O | C2H4O2
catalyst | nickel aluminum alloy | [Ni].[Al]
product | 2-(3-Amino-4-chlorobenzoyl)-benzo[b]furan | NC=1C=C(C(=O)C2=CC3=C(O2)C=CC=C3)C=CC1Cl | C15H10ClNO2
